US07427612B2
3-Fluoro-4-piperazin-1-yl-benzoic acid ethyl ester
A mixture of 5 g (27 mmol) 3,4-Difluoro-benzoic acid ethyl ester and 11.56 g (134 mmol) piperazine in 15 ml N,N-dimethylacetamide was heated to 120° C. for 1.5 h and subsequently all volatiles were removed under vacuum. The residue was purified by flash column chromatography on silica eluting with DCM/methanol to yield 6.19 g (91%) of the title compound as white amorphous solid.

reactant | 3,4-Difluoro-benzoic acid ethyl ester | 27 mmol, 5 g | C(C)OC(C1=CC(=C(C=C1)F)F)=O | C9H8F2O2
reactant | piperazine | 134 mmol, 11.56 g | N1CCNCC1 | C4H10N2
solvent | N,N-dimethylacetamide | 15 ml | CN(C(C)=O)C | C4H9NO
product | 3-Fluoro-4-piperazin-1-yl-benzoic acid ethyl ester | 6.19 g, 91% | C(C)OC(C1=CC(=C(C=C1)N1CCNCC1)F)=O | C13H17FN2O2
